US05958905
N-(4-bromo-3-methyl-5-isoxazolyl)diphenyl phosphinic amide was prepared by the method of Example 3 with 4-bromo-3-methyl-5-amino isoxazole (0.18 g, 1.0 mmol), THF (5 ml), NaH (60% oil dispersion, 88 mg, 2.2 mmol), and diphenyl phosphinic chloride (0.23 ml, 1.2 mmol). Recrystallization three times from chloroform and hexanes provided 0.17 g (45%) of faint pink crystals, m.p. 178.5-181° C.

reactant | 4-bromo-3-methyl-5-amino isoxazole | 1.0 mmol, 0.18 g | BrC=1C(=NOC1N)C | C4H5BrN2O
reactant | NaH | 2.2 mmol, 88 mg | [H-].[Na+]
reactant | diphenyl phosphinic chloride | 1.2 mmol, 0.23 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)diphenyl phosphinic amide | BrC=1C(=NOC1NP(=O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C16H14BrN2O2P
